US08664200B2
Step 2: {(1R)-2-cyclobutyl-1-[((2S)-2-{[(6-phenoxypyridin-3-yl)sulfonyl]amino}-3-phenylpropanoyl)amino]ethyl}boronic acid
Into a 20 mL vial was added (25)-N-{(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}-2-{[(6-phenoxypyridin-3-yl)sulfonyl]amino}-3-phenylpropanamide (31.2 mg, 0.047 mmol), (2-methylpropyl)boronic acid (10.4 mg) 1N hydrochloric acid (0.107 mmol), methanol (0.285 mL and hexanes (0.285 mL.) The mixture was stirred at room temperature overnight, then the hexane layer was separated and discarded. The remaining solvent was removed in vacuo and the residue purified by preparative TLC on silica plates using 10% MeOH in CH2Cl2 to give 18.4 mg (74% yield) of desired product as a white solid. 1H NMR (CD3OD, 300 MHz, δ): 8.36 (s, 1H); 7.95-7.84 (m, 1H); 7.52-7.39 (m, 2H); 7.33-7.06 (m, 10H); 6.95-6.83 (m, 1H); 4.25-4.13 (m, 1H); 3.09-2.94 (m, 1H); 2.93-2.78 (m, 1H); 2.46-2.32 (m, 1H); 2.26-1.93 (m, 3H); 1.92-1.71 (m, 2H); 1.64-1.37 (m, 3H); 1.37-1.22 (m, 1H).

reactant | (25)-N-{(1R)-2-cyclobutyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}-2-{[(6-phenoxypyridin-3-yl)sulfonyl]amino}-3-phenylpropanamide | 0.047 mmol, 31.2 mg | C1(CCC1)C[C@@H](B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)NC([C@H](CC1=CC=CC=C1)NS(=O)(=O)C=1C=NC(=CC1)OC1=CC=CC=C1)=O | C36H44BN3O6S
reactant | (2-methylpropyl)boronic acid | 0.107 mmol, 1N, 10.4 mg | CC(CB(O)O)C | C4H11BO2
solvent | methanol | CO | CH4O
product | {(1R)-2-cyclobutyl-1-[((2S)-2-{[(6-phenoxypyridin-3-yl)sulfonyl]amino}-3-phenylpropanoyl)amino]ethyl}boronic acid | 18.4 mg, 74% yield | C1(CCC1)C[C@H](NC([C@H](CC1=CC=CC=C1)NS(=O)(=O)C=1C=NC(=CC1)OC1=CC=CC=C1)=O)B(O)O | C26H30BN3O6S
